US07816361B2
Step 2: Preparation of 4-(3-Isoxazol-5-yl-5-oxo-2,5-dihydro-pyrazol-1-yl)-N-(1,2,2,6,6-pentamethyl-piperidin-4-yl)-benzamide
3-Isoxazol-5-yl-3-oxo-propionic acid ethyl ester (49 mg) and 4-Hydrazino-N-(1,2, 2,6,6-pentamethyl-piperidin-4-yl)-benzamide (93 mg) were dissolved into ethanol (2.5 ml) and acetic acid (0.3 ml) and the solution stirred at 65° C. for 2 h. Concentration in vacuo and purification by HPLC gave the expected product. LC/MS: main peak is product (m/z: 424.3)

reactant | 3-Isoxazol-5-yl-3-oxo-propionic acid ethyl ester | 49 mg | C(C)OC(CC(=O)C1=CC=NO1)=O | C8H9NO4
reactant | 4-Hydrazino-N-(1,2, 2,6,6-pentamethyl-piperidin-4-yl)-benzamide | 93 mg | N(N)C1=CC=C(C(=O)NC2CC(N(C(C2)(C)C)C)(C)C)C=C1 | C17H28N4O
reactant | ethanol | 2.5 ml | C(C)O | C2H6O
solvent | acetic acid | 0.3 ml | C(C)(=O)O | C2H4O2
product | 4-(3-Isoxazol-5-yl-5-oxo-2,5-dihydro-pyrazol-1-yl)-N-(1,2,2,6,6-pentamethyl-piperidin-4-yl)-benzamide | O1N=CC=C1C=1NN(C(C1)=O)C1=CC=C(C(=O)NC2CC(N(C(C2)(C)C)C)(C)C)C=C1 | C23H29N5O3
